US07375104B2
h) 4,4-diethyl-1-{3-[2-hydroxy-2-(7-hydroxy-2-oxo-1,2-dihydroquinolin-5-yl)ethylamino]-3-methybutyl}-1,4-dihydrobenzo[d][1,3]oxazin-2-one
A suspension of 1-{3-[2-(7-benzyloxy-2-oxo-1,2-dihydroquinolin-5-yl)-2-hydroxyethylamino]-3-methylbutyl}-4,4-diethyl-1,4dihydrobenzo[d][1,3]oxazin-2-one (152 mg, 0.338 mmol) and Pd/C (10%) (40 mg) in MeOH (12 mL) is hydrogenated at room temperature (RT) and 1 bar hydrogen pressure for 4 hours. The catalyst is filtered off through CELITE® filter aid and washed with MeOH (5 mL). The organic phase is evaporated down, the residue is triturated with EtOAc and the precipitate formed is filtered off and dried in vacuo. Yield: 76 mg (46%); Rf=0.3 (silica gel, dichloromethane/MeOH/saturated aqueous ammonia 90:10:0.5); ESI-MS: [M+H]+=494.

reactant | 1-{3-[2-(7-benzyloxy-2-oxo-1,2-dihydroquinolin-5-yl)-2-hydroxyethylamino]-3-methylbutyl}-4,4-diethyl-1,4dihydrobenzo[d][1,3]oxazin-2-one | 0.338 mmol, 152 mg | C(C1=CC=CC=C1)OC1=CC(=C2C=CC(NC2=C1)=O)C(CNC(CCN1C(OC(C2=C1C=CC=C2)(CC)CC)=O)(C)C)O | C35H41N3O5
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 12 mL | CO | CH4O
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | 4,4-diethyl-1-{3-[2-hydroxy-2-(7-hydroxy-2-oxo-1,2-dihydroquinolin-5-yl)ethylamino]-3-methybutyl}-1,4-dihydrobenzo[d][1,3]oxazin-2-one | C(C)C1(C2=C(N(C(O1)=O)CCC(C)(C)NCC(C1=C3C=CC(NC3=CC(=C1)O)=O)O)C=CC=C2)CC | C28H35N3O5
